US05834454
Ethyl 1-ethoxycarbonylmethyl-7-nitro-1H-indole-2-carboxylate (2.11 g, 6.59 mmol) was subjected to catalytic reduction in the presence of 10% palladium-carbon (0.20 g) in tetrahydrofuran (70 ml) at ordinary temperature and atmospheric pressure. After completion of the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure. Toluene (100 ml) and sodium methoxide (0.35 g, 6.48 mmol) were added to the residue, and the resulting mixture was heated under reflux for 2 hours. Then, the solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: ethyl acetate/n-hexane=2/8) to obtain ethyl 2,3-dihydro-2-oxo-1H-pyrrolo [1,2,3-de]quinoxaline-5-carboxylate (1.38 g).

reactant | Ethyl 1-ethoxycarbonylmethyl-7-nitro-1H-indole-2-carboxylate | 6.59 mmol, 2.11 g | C(C)OC(=O)CN1C(=CC2=CC=CC(=C12)[N+](=O)[O-])C(=O)OCC | C15H16N2O6
reactant | Toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium methoxide | 6.48 mmol, 0.35 g | C[O-].[Na+]
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 0.20 g | [C].[Pd]
product | ethyl 2,3-dihydro-2-oxo-1H-pyrrolo [1,2,3-de]quinoxaline-5-carboxylate | 1.38 g | O=C1NC=2C=CC=C3C2N(C1)C(=C3)C(=O)OCC | C13H12N2O3
